US06458788B1
N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-cinnolinecarboxamide
To a suspension of methyl 3-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxy-6-cinnolinecarboxylate (0.48 g, 1.29 mmol) in 40 mL THF is added lithium aluminum hydride (2.60 mL, 2.60 mmol) dropwise. The reaction turns a dark green color. After 1 h, the reaction is quenched carefully with water, 15% NaOH, and water again. The reaction is filtered to remove aluminum salts. The filtrate is concentrated and the resulting residue is dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by chromatography (eluent CH2Cl2 (1 L), 0.5% MeOH/CH2Cl2 (1 L), 1% MeOH/CH2Cl2 (1 L), 2% MeOH/CH2Cl2 (1 L), 3% MeOH/CH2Cl2 (1 L), 4% MeOH/CH2Cl2 (1 L), 5% MeOH/CH2Cl2 (2 L), 5.5% MeOH/CH2Cl2 (2L)) affords the desired product (0.23 g, 0.67 mmol, 52%). Physical characteristics are as follows: m.p. 296-298° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.12, 8.14, 7.84, 7.74, 7.41, 5.50, 4.66, 4.56; IR (drift) 2922, 2873, 1647, 1602, 1555, 1490, 1358, 1183, 1022, 930, 919, 836, 808, 722, 684 cm−1; MS (FAB) m/z 344 (MH+), 346, 344, 287, 229, 153, 133, 125, 121, 107, 103; HRMS (FAB) calcd for C17H14ClN3O3+H1 344.0802, found 344.0805.

reactant | methyl 3-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxy-6-cinnolinecarboxylate | 1.29 mmol, 0.48 g | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)C(=O)OC)C=C1 | C18H14ClN3O4
reactant | lithium aluminum hydride | 2.60 mmol, 2.60 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-cinnolinecarboxamide | 0.67 mmol, 0.23 g, 52% | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)CO)C=C1 | C17H14ClN3O3
